US08183246B2
(3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2,2-dimethylpropoxy)acetic acid tert.-butyl ester
Put 300 mg (0.742 mmol) 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2,2-dimethylpropan-1-ol with 723 mg (3.71 mmol) bromoacetic acid tert.-butyl ester and 50 mg (0.148 mmol) tetra-n-butylammonium hydrogensulphate in 6 ml dichloromethane. Cool to 0° C. Then add 750 μl 50% sodium hydroxide solution and stir vigorously for a few minutes at 0° C. Stirring vigorously, allow to return to RT, and continue stirring vigorously overnight. Then dilute with dichloromethane and lightly acidify with 10% citric acid solution. Separate the phases and extract the aqueous phase once with dichloromethane. Combine the organic phases and wash once with satd. sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. Purify the residue by chromatography on silica gel (solvent: cyclohexane/ethyl acetate 9:1). 295 mg (76.7% of theor.) of the target compound is obtained.

reactant | 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2,2-dimethylpropan-1-ol | 0.742 mmol, 300 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCC(CO)(C)C)C2=CC=CC=C2 | C24H24N2O4
reactant | bromoacetic acid tert.-butyl ester | 3.71 mmol, 723 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | sodium hydroxide | 750 μl | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetra-n-butylammonium hydrogensulphate | 0.148 mmol, 50 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2,2-dimethylpropoxy)acetic acid tert.-butyl ester | C(C)(C)(C)OC(COCC(COC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)(C)C)=O | C30H34N2O6
